US09169187B2
To 4,4′-didocosoxybenzhydrol (713 mg, 856 μmol) were added toluene (15 ml), Fmoc-NH2 (246 mg, 1.03 mmol) and methanesulfonic acid (8.3 μl, 128 μmol), and the mixture was stirred at 100° C. for 3 hr. After confirmation of disappearance of a benzhydrol type anchor, the mixture was cooled to room temperature. 2.5% Aqueous sodium hydrogen carbonate (10 ml) was added and the mixture was stirred. After partitioning, the organic layer was further washed with water (10 ml×2). The organic layer was evaporated under reduced pressure, and the residue was washed with methanol (10 ml) to give N-Fmoc-di(4-docosoxyphenyl)methylamine (540 mg, 512 μmol, yield 60%).

reactant | 4,4′-didocosoxybenzhydrol | 856 μmol, 713 mg | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(C2=CC=C(C=C2)OCCCCCCCCCCCCCCCCCCCCCC)O)C=C1 | C57H100O3
reactant | Fmoc-NH2 | 1.03 mmol, 246 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N | C15H13NO2
reactant | methanesulfonic acid | 128 μmol, 8.3 μl | CS(=O)(=O)O | CH4O3S
reactant | benzhydrol | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-Fmoc-di(4-docosoxyphenyl)methylamine | 512 μmol, 540 mg, yield 60% | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NC(C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)OCCCCCCCCCCCCCCCCCCCCCC | C72H111NO4
